US07858621B2
N-(4-Aminomethyl-2-fluoro-phenyl)-methanesulfonamide HCl salt (56 mg, 0.22 mmol) was reacted with 3-(6-chloro-4-trifluoromethyl-pyridin-3-yl)-acrylic acid (54 mg, 1.0 eq) to give 3-(6-chloro-4-trifluoromethyl-pyridin-3-yl)-N-(5-fluoro-4-methanesulfonylamino-benzyl)-acrylamide (66 mg, 65.7%) after purification by column chromatography (Hex EtOAc=3/2).

reactant | N-(4-Aminomethyl-2-fluoro-phenyl)-methanesulfonamide HCl salt | 0.22 mmol, 56 mg | Cl.NCC1=CC(=C(C=C1)NS(=O)(=O)C)F
reactant | 3-(6-chloro-4-trifluoromethyl-pyridin-3-yl)-acrylic acid | 54 mg, 1.0 eq | ClC1=CC(=C(C=N1)C=CC(=O)O)C(F)(F)F | C9H5ClF3NO2
product | 3-(6-chloro-4-trifluoromethyl-pyridin-3-yl)-N-(5-fluoro-4-methanesulfonylamino-benzyl)-acrylamide | 66 mg, 65.7% | ClC1=CC(=C(C=N1)C=CC(=O)NCC1=CC=C(C(=C1)F)NS(=O)(=O)C)C(F)(F)F | C17H14ClF4N3O3S
